* Extracted by KLayout with GF180MCU LVS runset on : 11/07/2026 18:42

* cell untitled-4
.SUBCKT untitled-4
* cell instance $1 r0 *1 -0.45,0.12
X$1 Drain Source Gate Bulk nfet
.ENDS untitled-4

* cell nfet
* pin 
* pin 
* pin 
* pin 
.SUBCKT nfet \$1 \$2 \$3 \$5
* device instance $1 r0 *1 0.33,0.21 nfet_03v3
M$1 \$2 \$3 \$1 \$5 nfet_03v3 L=0.28U W=0.42U AS=0.2646P AD=0.2646P PS=2.1U
+ PD=2.1U
.ENDS nfet
